US09353107B2
Step-ii: N-(2-methoxy-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(2-methoxy-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide (100 mg, 0.155 mmol) was hydrolyzed by lithium hydroxide (13 mg, 0.311 mmol) in THF/methanol/water (5/1/2 mL) to afford 13 mg of the titled compound. 1H NMR (DMSO-d6, 400 MHz): δ 9.07 (s, 1H), 8.45-8.44 (d, 1H), 8.186-8.182 (d, 1H), 8.13, s 1H), 7.89 (s, 1H), 7.716-7.710 (d, 1H), 7.60-7.59 (m, 2H), 7.31-7.28 (m, 2H), 7.24-7.19 (m, 4H), 4.43-4.39 (t, 2H), 3.91 (s, 3H), 3.20-3.16 (t, 2H), 3.02 (s, 3H). MS: m/z=487.8 (M+1), HPLC: 95.48% in method A.

reactant | N-(2-methoxy-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 0.155 mmol, 100 mg | COC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CCC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)(=O)C | C33H31N5O5S2
reactant | lithium hydroxide | 0.311 mmol, 13 mg | [OH-].[Li+]
solvent | THF methanol water | 1/2 mL | C1CCOC1.CO.O
product | N-(2-methoxy-5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 13 mg | COC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CCC2=CC=CC=C2)NS(=O)(=O)C | C26H25N5O3S
